US06191296B1
Reactor B was a bubble column with stirrers and a reaction volume of 10 liter. A 7 kg amount of catalyst (stream 4), and 3 kg comminuted silicon (stream 5) with a mean particle size d50%=27 micron were charged to the reactor. At 170° C. the reaction began. Thereafter the dosing of 3.5 mol/hr silicon (stream 6) and 34 mol/hr ethanol (stream 9) began. A 20 mol/hr amount of the ethanol was provided by recycle ethanol (stream 9). The temperature was increased to 190-200° C. and kept constant. High-boiling components (stream 7) were retained by means of the overhead column C, and the ethanol/tetraethoxysilane mixture (stream 8) was fractionated in column E, yielding tetraethoxysilane product in the amount of 3.5 mol/hr (stream 10). The ethanol (stream 9) was sent in dose amounts to reactor B, as excess ethanol. The impurities in the silicon powder (stream 12) were drawn off at the bottom of the reactor with other residual reactor contents and were collected in filter F, wherewith the liquid components (stream 13) were returned to the reactor.

reactant | ethanol tetraethoxysilane | C(C)O.C(C)O[Si](OCC)(OCC)OCC
solvent | ethanol | C(C)O | C2H6O
product | tetraethoxysilane | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
